US04112095
Preparation of 6-(m-fluorophenyl)-1,2,4-triazolo-[4,3-b]pyridazine
A mixture of 3.6 g. of 3-chloro-6-(m-fluorophenyl)pyridazine and 2.06 g. of formylhydrazine in 50 ml. of n-butanol is refluxed for 48 hr. and worked up as in Example 35 to give the product as crystals, m.p. 159°-161° C.

reactant | 3-chloro-6-(m-fluorophenyl)pyridazine | ClC=1N=NC(=CC1)C1=CC(=CC=C1)F | C10H6ClFN2
reactant | formylhydrazine | C(=O)NN | CH4N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-(m-fluorophenyl)-1,2,4-triazolo-[4,3-b]pyridazine | FC=1C=C(C=CC1)C=1C=CC=2N(N1)C=NN2 | C11H7FN4
